data/mechanism_extracts/Angew/10.1002_anie.201810870.json
{"doi": "10.1002_anie.201810870", "journal": "Angew", "is_review": false, "rxn_class_summary": "Electrochemical regioselective oxidative dimerization of 4-hydroxystilbenes (phenylpropenoids) to quinone methide dimers (QMDs) via anodic phenol oxidation and phenoxyl radical coupling", "mechanism_family": ["radical_anodic", "direct_SET"], "electrochemical_role": "Anodic single-electron oxidation of the 4-hydroxystilbene phenol (with 2,6-lutidine as proton acceptor) generates a phenoxyl radical (delocalized form 2a-2c); 2,6-lutidine deprotonates the phenol/phenol radical cation to facilitate oxidation at 0.6 V vs Ag/AgCl", "key_intermediates": [{"name": "phenoxyl radical (resonance forms 2a/2b/2c spread onto C3 and C8')", "smiles": null, "role": "reactive"}, {"name": "quinone methide dimer (QMD) from C8-C8' or C3-C8' radical-radical coupling", "smiles": null, "role": "reactive"}, {"name": "peroxyl-adduct radical (RTA addition product to QMD exocyclic alkene, aromatizes to stabilized phenoxyl)", "smiles": null, "role": "transient"}], "electron_flow": "Anode removes one electron from the 4-hydroxystilbene (assisted by 2,6-lutidine deprotonation) to give a delocalized phenoxyl radical; two such radicals couple regioselectively at C8-C8' or C3-C8' to furnish the quinone methide dimer, which is the isolated product and serves as a radical-trapping antioxidant by direct addition of peroxyl radicals to its exocyclic C=C followed by aromatization.", "rate_determining_step": "anodic phenol oxidation / phenoxyl radical generation prior to radical-radical coupling (not explicitly assigned)", "probe_reagents": [{"name": "CD3OD (deuterated methanol) exchange test on QMD", "smiles": "[2H]OC([2H])([2H])[2H]", "purpose": "H/D_labeling", "observation": "no deuterium incorporation into QMD, ruling out tautomerization (mechanism 2) to a phenolic form"}, {"name": "PBD-BODIPY (co-autoxidation signal carrier)", "smiles": null, "purpose": "other", "observation": "inhibited autoxidation kinetics gave k_inh = 2-3 x 10^6 M^-1 s^-1 and n ~1.3-1.7 for QMDs, far exceeding parent phenols"}, {"name": "AIBN initiator / 1-hexadecene co-autoxidation", "smiles": null, "purpose": "other", "observation": "established RTA inhibition rate constants and stoichiometries for QMDs vs quadrangularin A analogues"}, {"name": "Truncated unsubstituted QMD model (CBS-QB3 computations)", "smiles": null, "purpose": "other", "observation": "predicted HAT from C-H k ≈ 6 M^-1 s^-1 (excludes mechanism 1); ΔH = -31.5 kcal/mol for peroxyl addition to exocyclic C=C with computed k matching experimental 4 x 10^6 M^-1 s^-1 (supports direct-addition mechanism 4)"}], "evidence_types_used": ["H/D_labeling", "DFT", "kinetic_order", "isolation_of_intermediate", "UV_vis"], "evidence_strength": "strong", "notes": "Four mechanistic possibilities for the antioxidant activity of QMDs were evaluated (Figure 4E): (1) HAT via C-H, (2) tautomerization then HAT via O-H, (3) homolysis/recombination of the QMD, and (4) direct addition of peroxyl radical to the exocyclic C=C with aromatization. Mechanisms 1-3 are excluded by k_inh magnitude, lack of D-incorporation in CD3OD, and Keq (1.8 x 10^-10 M) for dissociation respectively. Mechanism 4 (direct peroxyl addition followed by aromatization to a stabilized, O2-unreactive phenoxyl radical) is favored and supported by DFT (CBS-QB3) thermochemistry and rate constant agreement. On the synthesis side, regiocontrol between C8-C8' (e.g. quadrangularin A) and C3-C8' (e.g. hierochin D) coupling arises from radical spin-density distribution on the phenoxyl intermediate."}
